US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 1-phenyl-12-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)dodecan-1-one (6.0 g, 12.8 mmol) by reaction with m-CPBA (8.18 g) to provide 12-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenyldodecan-1-one followed by reaction with p-toluenesulfonyl chloride (3.65 g, 19.2 mmol) and ammonium hydroxide solution (40 mL). The product was dissolved a mixture of ethanol and diethyl ether, and a solution of hydrogen chloride (1 equivalent of a 1.0 M solution in diethyl ether) was added. A precipitate formed, and the solvents were removed under reduced pressure. The resulting solid was recrystallized from a mixture of isopropanol and hexane to provide 12-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenyldodecan-1-one hydrochloride as an off-white solid, mp 195-196° C.

reactant | 1-phenyl-12-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)dodecan-1-one | 12.8 mmol, 6.0 g | C1(=CC=CC=C1)C(CCCCCCCCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)=O | C31H39N3O
reactant | m-CPBA | 8.18 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 12-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenyldodecan-1-one | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C(=N2)CCC)CCCCCCCCCCCC(=O)C2=CC=CC=C2 | C31H39N3O2
